US08314256B2
N-Benzhydryl-2-(1-methyl-1H-indol-3-yl)-2-oxo-acetamide was synthesized following scheme II above starting from (1-methyl-1H-indol-3-yl)-oxo-acetic acid and C,C-diphenyl-methylamine. Yield (11%). HPLC ret. time 3.79 min, 10-99% CH3CN, 5 min run; 1H NMR (400 MHz, DMSO-d6) δ 9.56 (d, J=9.1 Hz, 1H), 8.65 (s, 1H), 8.24 (m, 1H), 7.61 (m, 1H), 7.43-7.26 (m, 12H), 6.32 (d, J=9.1 Hz, 1H), 3.90 (s, 3H); ESI-MS 369.1 m/z (MH+).

reactant | (1-methyl-1H-indol-3-yl)-oxo-acetic acid | CN1C=C(C2=CC=CC=C12)C(C(=O)O)=O | C11H9NO3
reactant | C,C-diphenyl-methylamine | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
solvent | CH3CN | CC#N | C2H3N
product | N-Benzhydryl-2-(1-methyl-1H-indol-3-yl)-2-oxo-acetamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(=O)C1=CN(C2=CC=CC=C12)C)=O | C24H20N2O2
